US09102614B2
Preparation of 4-(2-methoxyphenyl)-3-methyl-but-2-enoic acid ethyl ester:
In a 3-neck round bottom flask, fitted with an internal thermometer and addition funnel, a mixture of sodium hydride (60% in mineral oil, 4.14 g) in THF (200 mL), under argon, was cooled to 10° C. (Diethoxyphosphoryl)acetic acid ethyl ester (21 mL) was added dropwise (heat and gas evolution), keeping the internal temperature below room temperature. After addition, the reaction mixture was stirred at room temperature for minutes, and then cooled to 0° C. A solution of 2-methoxyphenyl acetone (5 g) in THF (25 mL) was added dropwise over 5 minutes. The reaction was allowed to warm to room temperature overnight. With active cooling, the reaction was quenched with H2O (200 mL), then AcOH (to pH ˜6) and extracted with EtOAc. The combined organics were washed with NaHCO3, water, and brine, dried over Na2SO4, and concentrated. The crude residue was purified by flash column chromatography to give the desired compound (5.73 g). 1H-NMR: 400 MHz, (CDCl3) δ: 7.24 (app dt, 1H), 7.10 (dd, 1H), 6.92 (d, 1H), 6.88 (d, 1H), 5.58 (s, 1H), 4.13 (q, 2H), 3.82 (s, 3H), 3.46 (s, 2H), 1.26 (t, 3H).

reactant | sodium hydride | 4.14 g | [H-].[Na+]
reactant | (Diethoxyphosphoryl)acetic acid ethyl ester | 21 mL | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | 2-methoxyphenyl acetone | 5 g | COC1=C(C=CC=C1)CC(C)=O | C10H12O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-(2-methoxyphenyl)-3-methyl-but-2-enoic acid ethyl ester | 5.73 g | C(C)OC(C=C(CC1=C(C=CC=C1)OC)C)=O | C14H18O3
